US05128369
1-(4-Hydroxyphenyl)-2-[2-(isochroman-1-yl)-1-methylethylamino]ethanol (Compound 1)
In 15 ml of anhydrous methanol were dissolved 2.93 g (15.5 mmol) of (isochroman-1-yl)acetone [Chem. Pharm. Bull., 36, 1758 (1988)] and 1.57 g (10.3 mmol) of 2-amino-1-(4-hydroxyphenyl)ethanol [U.S. Pat. No. 2,585,988 (1952)], and the resulting solution was stirred for 3 hours at room temperature. Methanol was evaporated, and anhydrous benzene was added to the mixture, and water formed was removed off by azeotropic distillation. To the resulting mixture was added 15 ml of anhydrous methanol. Subsequently, 567 mg (15 mmol) of sodium borohydride was gradually added under ice cooling, and the resulting mixture was stirred for 3 hours at room temperature. The methanol was evaporated off, and then 10% sulfuric acid aqueous solution was added to the residue, and the mixture was washed with ether. The resulting mixture was rendered basic with the addition of saturated aqueous potassium hydrogencarbonate and then extracted with ethyl acetate. The ethyl acetate layer was washed with water and then dried over anhydrous magnesium sulfate. The solvent was evaporated off, and the residue was subjected to silica gel column chromatography (ethyl acetate :triethylamine=20:1) to give 2.8 g (83%) of crystals of Compound 1.

reactant | (isochroman-1-yl)acetone | 15.5 mmol, 2.93 g | C1(OCCC2=CC=CC=C12)CC(C)=O | C12H14O2
reactant | 2-amino-1-(4-hydroxyphenyl)ethanol | 10.3 mmol, 1.57 g | NCC(O)C1=CC=C(C=C1)O | C8H11NO2
reactant | sodium borohydride | 15 mmol, 567 mg | [BH4-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | 1-(4-Hydroxyphenyl)-2-[2-(isochroman-1-yl)-1-methylethylamino]ethanol | 2.8 g, 83% | OC1=CC=C(C=C1)C(CNC(CC1OCCC2=CC=CC=C12)C)O | C20H25NO3
